US06521643B1
To a suspension of 2-chloro-3-formylpyridine (0.708 g), 3-nitrophenylboronic acid (1.09 g) and tetrakis(triphenylphosphine)-palladium (289 mg) in 1,2-dimethoxyethane (20 ml) was added 2M aqueous solution of sodium carbonate (6.5 ml). The mixture was stirred at 80° C. for 14 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, h-hexane:ethyl acetate=1:1) to give 3-(3-formylpyrdin-2-yl)nitrobenzene (1.07 g).

reactant | 2-chloro-3-formylpyridine | 0.708 g | ClC1=NC=CC=C1C=O | C6H4ClNO
reactant | 3-nitrophenylboronic acid | 1.09 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 6.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 289 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(3-formylpyrdin-2-yl)nitrobenzene | 1.07 g | C(=O)C=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H8N2O3
